Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[H:7].[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-3.49934987439
[H:14].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12][H:13]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],-5.18406172297
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12][H:13].[H:1][C:2]([H:14])[H:15],4.4785231211
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10],4.35178074318
[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]#[C:3],5.09138477605
[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10]>>[C:6][C:7]([H:8])([H:9])[H:10].[O:1][O:2][C:3]([H:4])[H:5],2.80213864
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][C:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]1[C:6]2[O:7][C@:8]12[H:9],-1.16107616985
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:4],1.75706972643
[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-0.917553927657
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]#[C:8][H:9]>>[C:7]#[C:8][H:9].[O:1]=[C:2]([H:3])[O:4][C:5][H:6],6.201137025
[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7][H:8].[H:9]>>[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-5.1212593921
[H:1][C:2]#[C:3][C:4][C:7]([O:6][O:5])[H:8]>>[H:1][C:2]#[C:3][c:4]1[o:5][o:6][c:7]1[H:8],-1.78443779295
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:3]([H:4])([H:5])[H:6].[H:1][C:2][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],4.76757376101
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])[C:5]([H:6])([H:7])[C:8][C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:4][C:9]([H:10])[H:11],3.98515494847
[C:6]([H:7])[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.74282179717
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:7],4.12913302212
[H:1]/[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9]\[C:10]([H:11])([H:12])[H:13]>>[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8],2.98170586383
[H:9].[O:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C@@:3]([H:4])([C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.91985803056
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],1.99896851582
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]([H:8])=[C:9]([H:10])[H:11].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-2.62481925106
[C:5]([H:6])[O:7][H:8].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],-1.6238664347799998
[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[O:7]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12],-1.0942982883
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])[H:9],3.99119664686
[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3][O:4][C:5]=[C:6]([H:7])[H:8],3.29327293711
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[H:4],0.825632721301
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:8],3.52572460557
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([C:7]([H:8])[H:9])=[C:10](\[H:11])[C:13]([H:14])([H:15])[H:16],4.5084998956
[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])=[C:8][H:9]>>[C:1]#[C:2][C:3][O:4][H:5].[C:6]([H:7])#[C:8][H:9],1.7538930871400005
